US07442791B2
A solution of 0.15 g (0.44 mmol) of trans-4-{2-[(5-bromo-pyrimidin-2-yl)-methyl-amino]-ethyl}-cyclohexanecarboxylic acid in 4 mL of CH2Cl2 was treated at RT with 1 drop of DMF, followed by 0.04 mL (0.48 mmol, 1.1 eq) of oxalyl chloride within 5 min, and stirring was continued for 90 min. The solution was then evaporated, the residue redissolved in acetonitrile and added dropwise to a solution of 0.29 g (1.32 mmol, 3 eq) of 2-[ethyl-(2-methylamino-ethyl)-amino]-ethanol•2HCl and 0.92 mL (6.57 mmol) of Et3N in 4 mL of DMA at 0° C. The reaction was warmed to RT and left overnight, then partitioned between Et2O(×3)/aqueous 10% NaHCO3(2×), dried over Na2SO4 and evaporated then chromatographed over silica gel (20 g) prepared in CH2Cl2:MeOH 97.5:2.5 and eluted in 95:5 to yield 0.13 g (64%) of pure trans-4-{2-[(5-bromo-pyrimidin-2-yl)-methyl-amino]-ethyl}-cyclohexanecarboxylic acid {2-[ethyl-(2-hydroxy-ethyl)-amino]-ethyl}-methyl-amide, MS: 470 (MH+, 1Br).

reactant | trans-4-{2-[(5-bromo-pyrimidin-2-yl)-methyl-amino]-ethyl}-cyclohexanecarboxylic acid | 0.44 mmol, 0.15 g | BrC=1C=NC(=NC1)N(CC[C@@H]1CC[C@H](CC1)C(=O)O)C | C14H20BrN3O2
reactant | oxalyl chloride | 0.48 mmol, 0.04 mL, 1.1 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Et3N | 6.57 mmol, 0.92 mL | CCN(CC)CC | C6H15N
reactant | DMA | 4 mL | CC(=O)N(C)C | C4H9NO
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | trans-4-{2-[(5-bromo-pyrimidin-2-yl)-methyl-amino]-ethyl}-cyclohexanecarboxylic acid {2-[ethyl-(2-hydroxy-ethyl)-amino]-ethyl}-methyl-amide | 0.13 g, 64% | C(C)N(CCN(C(=O)[C@@H]1CC[C@H](CC1)CCN(C)C1=NC=C(C=N1)Br)C)CCO | C21H36BrN5O2
